US06288061B1
Ethyl 2-hydroxyimino-3-phenyl-3-oxopropionate (10.0 g) and 1-aminomethylnaphthalene (7.8 g) were reacted and treated in the same manner as in Starting Material Synthetic Example 1 to give ethyl 2-(1-naphthyl)-5-phenylimidazole-4-carboxylate (6.4 g). 6.0 g therefrom was dissolved in ethyl alcohol (120 ml) and 1 M sodium hydroxide solution (45 ml) was added. The mixture was reacted and treated in the same manner as in Starting Material Synthetic Example 2 to give 2-(1-naphthyl)-5-phenylimidazole-4carboxyic acid (4.1 g), melting point 172° C. (decomposition).

reactant | Ethyl 2-hydroxyimino-3-phenyl-3-oxopropionate | 10.0 g | ON=C(C(=O)OCC)C(=O)C1=CC=CC=C1 | C11H11NO4
reactant | 1-aminomethylnaphthalene | 7.8 g | NCC1=CC=CC2=CC=CC=C12 | C11H11N
product | ethyl 2-(1-naphthyl)-5-phenylimidazole-4-carboxylate | 6.4 g | C1(=CC=CC2=CC=CC=C12)C=1NC(=C(N1)C(=O)OCC)C1=CC=CC=C1 | C22H18N2O2
